US06956046B2
<Step 1> Synthesis of 1-benzylpiperidin-4-spiro-2′-oxirane
60% sodium hydride (25.4 g) was added to anhydrous dimethylsulfoxide (400 mL) and the mixture was stirred at room temperature under nitrogen atmosphere. Trimethylsulfoxonium iodide (140 g) was added gradually to the mixture at 20 to 28° C., and the mixture was stirred at room temperature for sixty minutes. An anhydrous dimethylsulfoxide solution (400 mL) of 1-benzyl-4-piperidone (100 g) was added dropwise to the mixture. After stirring the resulting mixture at room temperature for sixty minutes, the reaction mixture was poured into ice-water (2.0 L) gradually with stirring. The mixture was extracted with ethyl acetate, and the organic layer was combined and washed with water (four times) and brine successively. After drying over anhydrous sodium sulfate, the solvent was removed under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=1:9 to 1:1) to obtain the titled compound (86.7 g) as an oil.

reactant | sodium hydride | 25.4 g | [H-].[Na+]
reactant | Trimethylsulfoxonium iodide | 140 g | [I-].C[S+](=O)(C)C
reactant | 1-benzyl-4-piperidone | 100 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
solvent | dimethylsulfoxide | 400 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 400 mL | CS(=O)C | C2H6OS
product | 1-benzylpiperidin-4-spiro-2′-oxirane | 86.7 g | C(C1=CC=CC=C1)N1CCC2(OC2)CC1 | C13H17NO
